US06864396B2
A mixture of 30.0 grams of 2,5-bis(4-methylbenzoyl)terephthalic acid, 500 mL of acetic acid, and 3 grams of 5% palladium on activated carbon (as a catalyst) was heated to 64° C. for 17 hours in an atmosphere of hydrogen at 270 kPa. The mixture was filtered to remove the catalyst and the product. The catalyst and the product were slurried in 500 mL of tetrahhydrofuran and filtered through Celite™ diatomaceous earth filter agent. The resulting filtrate was concentrated in vacuo. The resulting wet solid was slurried in ethyl acetate and collected by filtration and dried to give 2,5-bis(4-methylbenzyl)terephthalic acid.

reactant | 2,5-bis(4-methylbenzoyl)terephthalic acid | 30.0 grams | CC1=CC=C(C(=O)C2=C(C(=O)O)C=C(C(=C2)C(=O)O)C(C2=CC=C(C=C2)C)=O)C=C1 | C24H18O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 3 grams | [Pd] | Pd
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
product | 2,5-bis(4-methylbenzyl)terephthalic acid | CC1=CC=C(CC2=C(C(=O)O)C=C(C(=C2)C(=O)O)CC2=CC=C(C=C2)C)C=C1 | C24H22O4
